US05608056
To a solution of (2R,4R)-1-allyloxycarbonyl-2-(2-azidoethyl)-4-hydroxypyrrolidine (20.0 g) and triethylamine (15.2 ml) in dichloromethane (300 ml) was added methanesulfonyl chloride (7.8 ml) under ice-cooling. After stirring for 1 hour, water was poured into the mixture. The organic layer was separated and the aqueous layer was extracted twice with dichloromethane. The combined organic layer was washed with 1N hydrochloric acid, sat. sodium bicarbonate, water and brine, dried over magnesium sulfate and evaporated under reduced pressure to give (2R,4R)-1-allyloxycarbonyl-2-(2-azidoethyl)-4-methanesulfonyloxypyrrolidine (15.3 g).

reactant | (2R,4R)-1-allyloxycarbonyl-2-(2-azidoethyl)-4-hydroxypyrrolidine | 20.0 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)CCN=[N+]=[N-] | C10H16N4O3
reactant | triethylamine | 15.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 7.8 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | (2R,4R)-1-allyloxycarbonyl-2-(2-azidoethyl)-4-methanesulfonyloxypyrrolidine | 15.3 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CCN=[N+]=[N-] | C11H18N4O5S
